US05322852
b) cis-N-BOC-2-methyl-4-hydroxypiperidine
A solution of 14.6 g (0.04876 mol) of cis-N-BOC-2-methyl-4-[(tetrahydropyran-2-yl)oxy]piperidine in 120 ml of methanol is treated with 20 g of cationic exchanger Dowex® 50 WX8 (H+ form; 50-100 mesh (50 mesh corresponds to a granular size of c. 300 μm, 100 mesh to c. 150 μm); cationic exchanger based on a styrene/divinylbenzene polymer containing sulfonyl groups; registered trademark of Dow Chemicals Co., USA)), and the mixture is stirred for 22 hours at room temperature. After filtration, washing the ion exchanger with methanol and concentrating the filtrate under vacuum, the title compound is obtained in the form of a viscous oil, Rf =0.16 (silica gel/ethyl acetate:hexane (1:2)).

reactant | cis-N-BOC-2-methyl-4-[(tetrahydropyran-2-yl)oxy]piperidine | 0.04876 mol, 14.6 g | C(=O)(OC(C)(C)C)N1[C@H](C[C@H](CC1)OC1OCCCC1)C | C16H29NO4
reactant | styrene/divinylbenzene | C=CC1=CC=CC=C1.C(=C)C1=C(C=CC=C1)C=C
solvent | methanol | 120 ml | CO | CH4O
product | cis-N-BOC-2-methyl-4-hydroxypiperidine | C(=O)(OC(C)(C)C)N1[C@H](C[C@H](CC1)O)C | C11H21NO3
